US06831106B1
b) 1-(4-Bromo-2-thiophenyl)-1-propanone
11.5 g (52 mmol) of 1-(4-bromo-2-thiophenyl)-1-propanol are dissolved in 300 mL of dichloromethane. 60 g (690 mmol) of manganese dioxide are added and the reaction medium is stirred for 14 hours and then filtered. The desired product is obtained in the form of an orange-coloured oil (m=11.4 g; Y=99%).

reactant | 1-(4-bromo-2-thiophenyl)-1-propanol | 52 mmol, 11.5 g | BrC=1C=C(SC1)C(CC)O | C7H9BrOS
solvent | dichloromethane | 300 mL | ClCCl | CH2Cl2
catalyst | manganese dioxide | 690 mmol, 60 g | [O-2].[O-2].[Mn+4]
product | 1-(4-Bromo-2-thiophenyl)-1-propanone | BrC=1C=C(SC1)C(CC)=O | C7H7BrOS
